US06468607B1
11.4 g of 6-(3,4-difluorophenyl)-2-naphthyl trifluoromethanesulfonate and 60 ml of DMF were dissolved in 20 ml of triethylamine. To the solution were then added 0.4 g of tetrakis(triphenylphosphine)palladium (0) and 0.1 g of copper iodide (I). Methyl acetylene was then introduced into the reaction mixture at ordinary temperature and pressure. The reaction mixture was then stirred for 2 hours. The reaction solution was neutralized with a 10% hydrochloric acid, extracted with 100 ml of toluene, and then washed with water and saturated brine. The solvent was then distilled off. The residue was then purified through silica gel column chromatography (hexane) to obtain 7.4 g of 2-(3,4-difluorophenyl)-6-(1-propinyl)naphthalene.

reactant | 6-(3,4-difluorophenyl)-2-naphthyl trifluoromethanesulfonate | 11.4 g | FC(S(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C1=CC(=C(C=C1)F)F)(F)F | C17H9F5O3S
reactant | DMF | 60 ml | CN(C)C=O | C3H7NO
reactant | Methyl acetylene | CC#C | C3H4
reactant | hydrochloric acid | Cl | ClH
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine)palladium | 0.4 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper iodide | 0.1 g | [Cu](I)I
product | 2-(3,4-difluorophenyl)-6-(1-propinyl)naphthalene | 7.4 g | FC=1C=C(C=CC1F)C1=CC2=CC=C(C=C2C=C1)C#CC | C19H12F2
